US08168794B2
To a solution of (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-methoxypiperidine-1-carboxylate (1 eq) in 30 mL of methanol was added 3.8M HCl in isopropanol (4 eq). The reaction mixture was allowed to stand at room temperature for 3 hours at which point it was concentrated under reduced pressure. The resulting residue was diluted with 100 mL of EtOAc, washed with sat. aq. sodium bicarbonate, brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=2:1) to yield (3R,5R)-benzyl 3-hydroxy-5-methoxypiperidine-1-carboxylate (92%). LC/MS (m/z): 266.2 (MH+).

reactant | (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-methoxypiperidine-1-carboxylate | 1 eq | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C20H33NO4Si
reactant | HCl | 3.8M | Cl | ClH
reactant | isopropanol | 4 eq | C(C)(C)O | C3H8O
solvent | methanol | 30 mL | CO | CH4O
product | (3R,5R)-benzyl 3-hydroxy-5-methoxypiperidine-1-carboxylate | 92% | O[C@H]1CN(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C14H19NO4
